* D:\Users\rune\Documents\Skole\AnalogTek\ltspice_plt_python\Design_Files\voltage_divider\VoltageDivider.asc
R1 Vout 0 {var_r1}
R2 Vout 0 1K
R3 N001 Vout 1K
V1 N001 0 10
.op
.step param var_r1 10 10E3 100
.backanno
.end
